US04003999
A cold solution (10° C.) of sodium acetylsalicylate was prepared by adding 34.6 gms. of sodium carbonate hydrate and 100 gms. of aspirin to 600 ml. of distilled water stirring until all solids had dissolved and using an additional 320 ml. of distilled water to wash down the walls of the container. Twenty-five gms. of instant tea was added with stirring until the tea dissolved. To 750. ml. of cold distilled water (5° C.) was added 250 ml. of the aspirin-tea solution and 20 ml. of glacial acetic acid. After a period of one hour the remaining aspirin-tea solution was added in 50 ml. portions with glacial acetic acid being added after each addition, the first amount being 4.0 ml. and increasing each addition by 1.0 ml.; a stirring period of 10 minutes occurred between each addition. The coprecipitate was allowed to settle, the supernatant was decanted, the coprecipitate was washed with glycine buffer solution and collected by filtration. After air drying, the product weighted 79.2 gms. Analysis of the coprecipitate showed it contained 95.3% aspirin, 4.17% tea constituent, 0.03% salicylic acid and 0.50% water.

reactant | sodium carbonate hydrate | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
solvent | water | O | H2O
product | sodium acetylsalicylate | C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1.[Na+] | InChI=1S/C9H8O4.Na/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2-5H,1H3,(H,11,12);/q;+1/p-1
